US08048894B2
Method 10. Preparation of Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate
Methyl 2-chloro-5-(methylamino)isonicotinate. To a solution of methyl 5-(tert-butoxycarbonyl)-2-chloroisonicotinate (0.5 g, 1.7 mmol) in dry DCM (10 mL) was added TFA (4.4 mL) with stirring and cooling using an ice-bath. The mixture was stirred at room temperature for 2 hours and then evaporated under reduced pressure. The residue was dissolved in water, and the solution was adjusted to pH=8 by treatment with saturated NaHCO3. The mixture was extracted twice with EtOAc. The combined organic layers were dried over anhydrous MgSO4, and filtered. The filtrate was evaporated under reduced pressure, and the residue was dried in vacuo to give the title compound.

reactant | Methyl 2-chloro-5-(methylamino)isonicotinate | ClC=1C=C(C(=O)OC)C(=CN1)NC | C8H9ClN2O2
reactant | methyl 5-(tert-butoxycarbonyl)-2-chloroisonicotinate | 1.7 mmol, 0.5 g | C(C)(C)(C)OC(=O)C1=CN=C(C=C1C(=O)OC)Cl | C12H14ClNO4
reactant | TFA | 4.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate | ClC=1C=C2C(=C(C(N(C2=CN1)C)=O)C(=O)OC)O | C11H9ClN2O4
